US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 3,5-difluoro-phenyl chloroformate were reacted, followed by treatment with N-allyl-N-methylamine to give trans-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl}-methyl-carbamic acid 3,5-difluoro-phenyl ester, MS: 409 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,5-difluoro-phenyl chloroformate | ClC(=O)OC1=CC(=CC(=C1)F)F | C7H3ClF2O2
reactant | N-allyl-N-methylamine | C(C=C)NC | C4H9N
product | trans-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl}-methyl-carbamic acid 3,5-difluoro-phenyl ester | FC=1C=C(C=C(C1)F)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCCN(C)CC=C)=O | C23H34F2N2O2
